US07595401B2
Step 1: (E)-tert-Butyl 4-{(ethoxycarbonyl)methylene}-3,3-dimethylpiperidine-1-carboxylate
To a suspension of NaH (0.212 g, 5.29 mmol) in THF (2 mL) was added a solution of triethyl 2-phosphonopropionate (1.05 mL, 5.29 mmol) in THF (2 mL) at 0° C. After the mixture was stirred for 1 h at rt, a solution of tert-butyl-3,3-dimethyl-4-oxopiperidine-1-carboxylate (J. Org. Chem., 2001, 66, 2487) (0.600 g, 2.64 mmol) in THF was then added and stirred for 10 h. The resulting mixture was quenched with water and the product portion was extracted with Et2O. The combined extracts were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by SiO2 chromatography (gradient: 5% EtOAc/hexane to 40% EtOAc/hexane) to afford the titled compound (784 mg, ˜100%); 1H NMR (CDCl3) δ 5.73 (s, 1H), 4.15 (q, J=6.8 Hz, 2H), 3.52-3.42 (m, 2H), 3.25-3.18 (m, 2H), 3.05 (t, J=5.6 Hz, 2H), 1.47 (s, 9H), 1.29 (t, J=6.8 Hz, 3H), 1.12 (s, 6H)

reactant | NaH | 5.29 mmol, 0.212 g | [H-].[Na+]
reactant | triethyl 2-phosphonopropionate | 5.29 mmol, 1.05 mL | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | tert-butyl-3,3-dimethyl-4-oxopiperidine-1-carboxylate | 2.64 mmol, 0.600 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)(C)C | C12H21NO3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (E)-tert-Butyl 4-{(ethoxycarbonyl)methylene}-3,3-dimethylpiperidine-1-carboxylate | 784 mg, ~100% | C(C)OC(=O)\C=C/1\C(CN(CC1)C(=O)OC(C)(C)C)(C)C | C16H27NO4
